US07645755B2
c) 4(4-Methyl-piperazin-1-yl)-2-(4methyl-thiophen-3-yl)-phenylamine
Using a procedure similar to Example 4, step (d), 1-methyl-4-[3-(4-methyl-thiophen-3-yl)-4-nitro-phenyl]-piperazine (100 mg, 0.32 mmol) was stirred with 80 mg 5% Pd—C under H2 to afford 82 mg (89%) of the title compound as a dark oil, which was used immediately without further purification spectrum (ESI, m/z): Calcd. for C16H21N3S, 288.15 (M+H), found 288.1.

reactant | 1-methyl-4-[3-(4-methyl-thiophen-3-yl)-4-nitro-phenyl]-piperazine | 0.32 mmol, 100 mg | CN1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])C1=CSC=C1C | C16H19N3O2S
catalyst | Pd—C | 80 mg | [Pd] | Pd
product | 4(4-Methyl-piperazin-1-yl)-2-(4methyl-thiophen-3-yl)-phenylamine | 82 mg, 89% | CN1CCN(CC1)C1=CC(=C(C=C1)N)C1=CSC=C1C | C16H21N3S
